US05462954
5-(2-(2-(3-(2-Ethyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)propoxy)phenyl)ethyl)-1H-tetrazole
5-(2-(2-(3-(2-Ethyl-4-(4-fluorophenyl)-5-benzyloxyphenoxy)propoxy)phenyl)ethyl)-1H-tetrazole (90 mg, 0.16 mmol) was dissolved in ethanol and 10% palladium on carbon catalyst was added under an atmosphere of carbon dioxide. The mixture was then hydrogenated at 30 psi at room temperature for 1 hour. The catalyst was filtered off and the solution evaporated to dryness to give an oil. This oil was then purified by reverse phase HPLC on a C18 column eluting with methanol/water (90:10) containing 0.01% acetic acid. The title compound was isolated as an oil (yield 41 mg, 55%) containing 0.3 equivalents of acetic acid. NMR, MS.

reactant | 5-(2-(2-(3-(2-Ethyl-4-(4-fluorophenyl)-5-benzyloxyphenoxy)propoxy)phenyl)ethyl)-1H-tetrazole | 0.16 mmol, 90 mg | C(C)C1=C(OCCCOC2=C(C=CC=C2)CCC2=NN=NN2)C=C(C(=C1)C1=CC=C(C=C1)F)OCC1=CC=CC=C1 | C33H33FN4O3
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 5-(2-(2-(3-(2-Ethyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)propoxy)phenyl)ethyl)-1H-tetrazole | C(C)C1=C(OCCCOC2=C(C=CC=C2)CCC2=NN=NN2)C=C(C(=C1)C1=CC=C(C=C1)F)O | C26H27FN4O3
